US04499088
3-Mercapto-6-methylpyridazine (1 g) was added to a mixture of benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate-1-oxide (syn isomer) (5.0 g) in N,N-dimethylformamide (25 ml) and triethylamine (0.7 g) under ice-cooling and the mixture was stirred for 3 hours at the same temperature. The reaction mixture was added to a mixture of ethyl acetate and water. The separated organic layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated to give benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-(6-methylpyridazin-3-yl)thiomethyl-3-cephem-4-carboxylate-1-oxide (syn isomer) (4.8 g).

reactant | 3-Mercapto-6-methylpyridazine | 1 g | SC=1N=NC(=CC1)C | C5H6N2S
reactant | benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate-1-oxide | 5.0 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=CSC1 | C32H31ClN4O8S2
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzhydryl 7-[2-t-butoxycarbonylmethoxyimino-2-(4-thiazolyl)acetamido]-3-(6-methylpyridazin-3-yl)thiomethyl-3-cephem-4-carboxylate-1-oxide | 4.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)CSC=2N=NC(=CC2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=CSC1 | C37H36N6O8S3
